US08022205B2
In the same manner as Example 1-D-143, using a crude product (80 mg) of 5-{2-morpholin-4-yl-7-[4-(2-piperazin-1-yl-ethyl)-phenyl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl-bis-(4-methoxy-benzyl)-amine obtained in Example 1-D-143 and methanesulfonyl chloride (0.012 ml) instead of acetyl chloride, a crude product of 5-(7-{4-[2-(4-methanesulfonyl-piperazin-1-yl)-ethyl]-phenyl}-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl-bis-(4-methoxy-benzyl)-amine was obtained as a colorless solid (88 mg, 100%). Using a crude product (88 mg) of 5-(7-{4-[2-(4-methanesulfonyl-piperazin-1-yl)-ethyl]-phenyl}-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl-bis-(4-methoxy-benzyl)-amine, according to the above Deprotection method 2,5-(7-{4-[2-(4-methanesulfonyl-piperazin-1-yl)-ethyl]-phenyl}-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-ylamine was obtained as a colorless powder (26 mg, 43%).

reactant | 5-{2-morpholin-4-yl-7-[4-(2-piperazin-1-yl-ethyl)-phenyl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl-bis-(4-methoxy-benzyl)-amine | N1(CCOCC1)C=1N=C(C2=C(N1)N(CC2)C2=CC=C(C=C2)CCN2CCNCC2)C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C42H49N9O3
reactant | methanesulfonyl chloride | 0.012 ml | CS(=O)(=O)Cl | CH3ClO2S
product | 5-(7-{4-[2-(4-methanesulfonyl-piperazin-1-yl)-ethyl]-phenyl}-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl-bis-(4-methoxy-benzyl)-amine | CS(=O)(=O)N1CCN(CC1)CCC1=CC=C(C=C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C43H51N9O5S
